US06403561B1
Preparation of Ethyl 2-azido-3-(2-methoxyphenyl)propenoate
Pieces of sodium (3.678 g, 160 mmol) were added portionwise to ethanol (200 ml) over a period of 30 minutes. The resulting solution was cooled to −18° C. and a mixture of 2-methoxybenzaldehyde (4.832 g, 40 mmol) and ethyl azidoacetate (160 mmol) were then added over a period of one hour at a rate which allowed the temperature to be maintained below −15° C. After 3 hours, the solution was stored at 5° C. for 2 days in order to give a crystalline product which was collected by filtration and washed with cold hexane.

reactant | sodium | 160 mmol, 3.678 g | [Na] | Na
reactant | 2-methoxybenzaldehyde | 40 mmol, 4.832 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | ethyl azidoacetate | 160 mmol | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Ethyl 2-azido-3-(2-methoxyphenyl)propenoate | N(=[N+]=[N-])C(C(=O)OCC)=CC1=C(C=CC=C1)OC | C12H13N3O3
